US06482841B1
B) 4-(2-Chlorophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester
A mixture of 8 g (0.02 mol) of 4-(2-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester, obtained according A) and 71 g (0.059 mol) of pyridinium chlorochromate adsorbed on alumina, was suspended in 200 ml of CH2Cl2, and the whole mixture was stirred at room temperature for 5 hours. The remaining solid was eliminated by filtration, and the liquid was washed with water (3×250 ml), dried over anh. Na2SO4, and concentrated at reduced pressure, to dryness. The product was obtained as an oil, which was purified by column chromatography (Silicagel, n-hexane:EtAcO, 8:2) with a yield of 66%,

reactant | 4-(2-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | 0.02 mol, 8 g | O1C(CCC1)COC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C=CC=C1)Cl | C21H24ClNO5
reactant | pyridinium chlorochromate | 0.059 mol, 71 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Chlorophenyl)-2,6-dimethyl pyridine-3,5-dicarboxylic acid 3-methyl ester 5-(tetrahydrofuran-2-ylmethyl) ester | yield of 66% | O1C(CCC1)COC(=O)C=1C(=C(C(=NC1C)C)C(=O)OC)C1=C(C=CC=C1)Cl | C21H22ClNO5
